US06608203B2
2,2,2-Trifluoro-1-[1-(4-hydroxyphenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]ethanone
1-[1-(4-Benzyloxyphenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-2,2,2-trifluoroethanone (26.97 g, 61.1 mmol) was hydrogenated using 10% Pd/C (1.000 g) in EtOH (300 ml) at an initial pressure of 44 psi (˜300,000 Pa) at rt for 6 hr. The reaction mixture was filtered through a pad of Celite to remove the catalyst and the filtrate was evaporated in vacuo to give 18.98 g (88% yield) of white solid.

reactant | 1-[1-(4-Benzyloxyphenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-2,2,2-trifluoroethanone | 61.1 mmol, 26.97 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1N(CCC2=CC(=CC=C12)OC)C(C(F)(F)F)=O | C25H22F3NO3
solvent | EtOH | 300 ml | CCO | C2H6O
catalyst | Pd/C | 1.000 g | [Pd] | Pd
product | 2,2,2-Trifluoro-1-[1-(4-hydroxyphenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]ethanone | 18.98 g, 88% yield | FC(C(=O)N1C(C2=CC=C(C=C2CC1)OC)C1=CC=C(C=C1)O)(F)F | C18H16F3NO3
